US08703767B2
15. Preparation of N-(3-(6-((4-morpholinophenyl)amino)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)phenyl)acrylamide
N-(3-(6-Chloro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)phenyl)acrylamide (50 mg, 0.130 mmol), 4-morpholinoaniline (23.22 mg, 0.130 mmol) and Cs2CO3 (42.4 mg, 0.130 mmol) were dissolved in toluene (4.5 mL) in a sealable microwave compatible reaction tube, and then Pd2(dba)3 (2.386 mg, 2.61 μmol) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (3.01 mg, 5.21 μmol) were added. The reaction tube was sealed and the reaction heated under microwave irradiation (30 min, 200° C., 3 atm). After completion of the reaction, the solvent was removed by vacuum and product was purified by flash column chromatography. 1H NMR (400 MHz, CD3OD): δ 8.64 (s, 1H), 8.28 (s, 1H), 7.93 (d, 1H, J=8.0 Hz), 7.72 (m, 3H), 7.50 (m, 1H), 6.96 (m, 2H), 6.43 (m, 2H), 5.90 (d, 1H, J=8.4 Hz), 5.80 (dd, 1H, J=2.8 and 8.8 Hz), 4.09 (m, 1H), 3.83 (m, 4H), 3.75 (m, 1H), 3.09 (m, 4H), 3.05 (m, 1H), 2.66 (m, 1H), 2.12 (m, 1H), 1.96 (m, 1H), 1.83-1.73 (m, 2H); ESI-MS: [M+H]+.

reactant | N-(3-(6-Chloro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)phenyl)acrylamide | 0.130 mmol, 50 mg | ClC1=NC(=C2C(=N1)N(N=C2)C2OCCCC2)C=2C=C(C=CC2)NC(C=C)=O | C19H18ClN5O2
reactant | 4-morpholinoaniline | 0.130 mmol, 23.22 mg | O1CCN(CC1)C1=CC=C(N)C=C1 | C10H14N2O
reactant | Cs2CO3 | 0.130 mmol, 42.4 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 5.21 μmol, 3.01 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | toluene | 4.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 2.61 μmol, 2.386 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(3-(6-((4-morpholinophenyl)amino)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)phenyl)acrylamide | O1CCN(CC1)C1=CC=C(C=C1)NC1=NC(=C2C(=N1)N(N=C2)C2OCCCC2)C=2C=C(C=CC2)NC(C=C)=O | C29H31N7O3
